US09029374B2
3-chloro-5-fluoroaniline (0.074 mL, 0.73 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (0.09 g, 0.18 mmol)) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (0.065 g, 75%) as a white solid. Mass Spectrum: M+H+ 474. NMR is Spectrum (CDCl3): 1.61 (d, 3H), 2.90 (bs, 3H), 3.09 (bs, 3H), 3.46-3.55 (m, 4H), 3.80-3.88 (m, 4H), 4.35 (d, 1H), 4.88-4.96 (m, 1H), 5.56 (s, 1H), 6.03 (ddd, 1H), 6.27 (dd, 1H), 6.39 (ddd, 1H), 7.70 (d, 1H), 8.12 (d, 1H).

reactant | 3-chloro-5-fluoroaniline | 0.73 mmol, 0.074 mL | ClC=1C=C(N)C=C(C1)F | C6H5ClFN
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.18 mmol, 0.09 g | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3-chloro-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.065 g, 75% | ClC=1C=C(C=C(C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25ClFN3O4
